US08426411B2
To a solution of tert-butyl benzyl(4-((5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)(hydroxy)methyl)bicyclo[2.2.2]octan-1-yl)carbamate (1.26 g, 1.93 mmol) in DCM (10 mL) was added Dess-Martin periodinane (1.64 g, 3.86 mmol). The reaction was stirred at ambient temperature for about 3 h and was diluted with DCM (10 mL). The mixture was washed with saturated aqueous NaHCO3 (2×15 mL), brine (15 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The resulting oil was purified by silica gel chromatography eluting with a gradient of 0-25% EtOAc in heptane to give tert-butyl benzyl(4-(5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonyl)-bicyclo[2.2.2]octan-1-yl)carbamate (0.965 g, 77%) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 8.15 (s, 1H), 7.32-7.24 (m, 3H), 7.23-7.08 (m, 3H), 6.23 (d, J=3.5, 1H), 4.53 (s, 2H), 2.13-2.03 (m, 6H), 1.95-1.83 (m, 6H), 1.81-1.74 (m, 3H), 1.41 (s, 9H), 1.12-1.06 (m, 18H).

reactant | tert-butyl benzyl(4-((5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)(hydroxy)methyl)bicyclo[2.2.2]octan-1-yl)carbamate | 1.93 mmol, 1.26 g | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)C12CCC(CC1)(CC2)C(O)C2=C1C(=NC=C2Cl)N(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C37H54ClN3O3Si
reactant | Dess-Martin periodinane | 3.86 mmol, 1.64 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl benzyl(4-(5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonyl)-bicyclo[2.2.2]octan-1-yl)carbamate | 0.965 g, 77% | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)C12CCC(CC1)(CC2)C(=O)C=2C1=C(N=CC2Cl)N(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C37H52ClN3O3Si
